US05714487
(7S,8aS)-7-(4-Fluorophenoxy)methyl-2-(5-cyanophenyl)-1,2,3,4,6,7,8,8 a-octahydro-pyrrolo[1,2-a]pyrazine
A solution of 0.25 g (0.97 mmol) of (7S,8aS)-7-hydroxymethyl-2-(4-cyanophenyl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 16), 0.164 g (1.46 mmol) of 4-fluorophenol, 0.31 g (1.15 mmol) of triphenylphosphine in 10 mL of THF was treated with 0.18 mL (1.15 mmol) of diethyl azodicarboxylate and the solution stirred at ambient temperature for 16 h. The solvent was removed by rotary evaporation, and the residue partitioned between chloroform and 1M sodium hydroxide. The layers were separated, and the organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 1:1 ethyl acetate:hexane gave 0.225 g (66%) of the title compound. mp (.HCl) 81°-85° C. HRMS calcd for C21H23FN3O (MH+): 352.1825, found: 352.1817.

reactant | (7S,8aS)-7-hydroxymethyl-2-(4-cyanophenyl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.97 mmol, 0.25 g | OC[C@H]1C[C@@H]2N(CCN(C2)C2=CC=C(C=C2)C#N)C1 | C15H19N3O
reactant | 4-fluorophenol | 1.46 mmol, 0.164 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 1.15 mmol, 0.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.15 mmol, 0.18 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (7S,8aS)-7-(4-Fluorophenoxy)methyl-2-(5-cyanophenyl)-1,2,3,4,6,7,8,8 a-octahydro-pyrrolo[1,2-a]pyrazine | 0.225 g, 66% | FC1=CC=C(OC[C@H]2C[C@@H]3N(CCN(C3)C3=CC=CC(=C3)C#N)C2)C=C1 | C21H22FN3O
